US04960798
A solution of 35.4 g (0.126 mole) of α,β-diethyl-3,4,5-trimethoxy-N-methylbenzeneethanamine, 25.6 g (0.316 mole) formalin, 15 g (0.316 mole) formic acid in 350 ml DMF was heated under reflux for five hours. The mixture was partitioned between water and methylene chloride. The organic layer was dried with MgSO and evaporated in vacuo. The residue was warmed at 0.75 Torr for one hour. There was obtained 34 g (91% yield) of α,β-diethyl-3,4,5-trimethoxy-N,N dimethylbenzeneethanamine as an oil 1H NMR (CHCl3): 6.7 (s, 2H); 3.8 (s 9H); 2.7-2.2 (m, 2H); 2.2 (s, 6H); 2.0-1.2 (m, 4H); 0.9 (t, 3H); 0.7 (t, 3H).

reactant | α,β-diethyl-3,4,5-trimethoxy-N-methylbenzeneethanamine | 0.126 mole, 35.4 g | C(C)C(C(C1=CC(=C(C(=C1)OC)OC)OC)CC)NC | C16H27NO3
reactant | formalin | 0.316 mole, 25.6 g | C=O | CH2O
reactant | formic acid | 0.316 mole, 15 g | C(=O)O | CH2O2
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
product | α,β-diethyl-3,4,5-trimethoxy-N,N dimethylbenzeneethanamine | 34 g, 91% yield | C(C)C(C(C1=CC(=C(C(=C1)OC)OC)OC)CC)N(C)C | C17H29NO3
